### PR TITLE
Percolate source location metadata from Boogie DDM down to Lambda

### PR DESCRIPTION
**Pull request by shigoel**
*Issue #, if available:*
https://github.com/strata-org/Strata/issues/102 

*Description of changes:*
This change percolates source location metadata from the DDM definition all the way down to Boogie/Imperative/Lambda. In particular, now we get source location and debugging information when Lambda's type check fails. See `Examples/TypeError.boogie.st` and `Examples/expected/TypeError.boogie.expected`.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Imperative/PureExpr.lean [hunk 1]
```diff
@@ -13,15 +13,24 @@ Expected interface for pure expressions that can be used to specialize the
 Imperative dialect.
 -/
 structure PureExpr : Type 1 where
+  /-- Kinds of identifiers allowed in expressions. We expect identifiers to have
+   propositional equality; see `EqIdent`. -/
```
Comment (joscoh) [inline Strata/DL/Imperative/PureExpr.lean]: Decidable equality

File: Strata/DL/Lambda/LTyUnify.lean [hunk 2]
```diff
@@ -1010,9 +1010,46 @@ private theorem Constraints.unify_termination_goal_2
...
+      let msg_fn := fun (x : Constraint) => f!"Impossible to unify {x.fst} with {x.snd}."
+      match opt_original with
+      | none => msg_fn c
+      | some original =>
+        if c == original then
+          msg_fn c
+        else
+          (msg_fn original) ++ f!"\nFirst mismatch: {c.fst} with {c.snd}."
+    | .FailedOccursCheck tyvar ty c opt_original =>
+      let msg_fn := f!"Failed occurs check: {tyvar} should not occur in the type variables of {ty}."
```
Comment (joscoh) [inline Strata/DL/Lambda/LTyUnify.lean]: This is probably just me, but this error message is sort of confusing. IIUC, this error occurs if we try to unify something like `a` with `a -> b`, right? The error message seems to suggest that `a` would not unify with `a`.  Really it seems like this is a cardinality error, though that might not be clearer.

File: Strata/Languages/Boogie/CmdType.lean [hunk 3]
```diff
@@ -88,23 +91,28 @@ def canonicalizeConstraints (constraints : List (LTy × LTy)) : Except Format Co
...
-def unifyTypes (Env: TEnv Visibility) (constraints : List (LTy × LTy)) : Except Format (TEnv Visibility) := do
+def unifyTypes (Env: TEnv Visibility) (constraints : List (LTy × LTy)) :
+    Except Format (TEnv Visibility) := do
   let constraints ← canonicalizeConstraints constraints
-  let S ← Constraints.unify constraints Env.stateSubstInfo
+  let S ← Constraints.unify constraints Env.stateSubstInfo |> .mapError format
   let Env := Env.updateSubst S
   return Env
 
+def typeErrorFmt (e : Format) : Format :=
```
Comment (joscoh) [inline Strata/Languages/Boogie/CmdType.lean:101]: What is this used for?

File: Strata/Languages/Boogie/ProgramWF.lean [hunk 4]
```diff
@@ -307,16 +308,21 @@ theorem Program.typeCheckFunctionDisjoint : Program.typeCheck.go p C T decls acc
...
-      have id_eq := addKnownTypeWithErrorIdents heq; simp at id_eq; grind
-    . grind
-    . rename_i Heq; have :=addDatatypeIdents Heq; grind
-    . grind
-    . grind
-    . grind
-    . simp only [LContext.addFactoryFunction] at a_notin; grind
+      have Hcontains := Identifiers.addWithErrorContains Hid a.name
+      try grind)
+    all_goals(
```
Comment (joscoh) [inline Strata/Languages/Boogie/ProgramWF.lean]: It's worth noting that ending an `all_goals` with `try grind` makes the proof less maintainable, since it is difficult to tell how many subgoals should remain. At the very least I think the subgoals following a tactic like this should be given explicit names with `case ... =>` so that someone reading it can tell which cases are supposed to be left.

File: Strata/DL/Imperative/PureExpr.lean (hunk 1 above)
Comment (shigoel) [reply Strata/DL/Imperative/PureExpr.lean]: oops, thanks

File: Strata/Languages/Boogie/CmdType.lean (hunk 3 above)
Comment (shigoel) [reply Strata/Languages/Boogie/CmdType.lean:101]: The `TypeContext` class now is also parameterized by an error type `TypeError`. Previously, it was hard-coded to `Format`. `typeErrorFmt` is just a function that maps `TypeError` to `Format`.

One day, I'd like to have structured error types everywhere, so this is in prep. for that.

File: Examples/run_examples.sh
Comment (atomb) [inline Examples/run_examples.sh:1]: I'm very happy to have this!

File: Examples/TypeError.boogie.st
Comment (atomb) [inline Examples/TypeError.boogie.st:1]: Tiny wibble: is this more of a test than an example? I would expect the files in this directory to be ones someone might want to read to understand what programs written in a given dialect look like.

File: Strata/Languages/Boogie/ProgramWF.lean (hunk 4 above)
Comment (shigoel) [reply Strata/Languages/Boogie/ProgramWF.lean]: noted.

File: Strata/Languages/Boogie/DDMTransform/Translate.lean [hunk 5]
```diff
@@ -862,24 +864,24 @@ partial def translateExpr (p : Program) (bindings : TransBindings) (arg : Arg) :
...
+    | .var name _ty _expr _md =>
       -- Global Variable
       return (.fvar () name ty?)
-    | .func func =>
+    | .func func _md =>
       -- 0-ary Function
       return (.op () func.name ty?)
     | _ =>
-      TransM.error s!"translateExpr unimplemented fvar decl: {format decl}"
+      TransM.error s!"1 translateExpr unimplemented fvar decl: {format decl}"
```
Comment (atomb) [inline Strata/Languages/Boogie/DDMTransform/Translate.lean]: Is there a more informative way to disambiguate this message from the one below?

File: Strata/DL/Lambda/LTyUnify.lean (hunk 2 above)
Comment (shigoel) [reply Strata/DL/Lambda/LTyUnify.lean]: It's more than a cardinality test -- it checks for circular dependencies/infinite types. If we add something like (`a`,  `a -> b`) to the substitution, then the algorithm won't terminate. 

What's a good error message? E.g., `f!"Failed occurs check: {tyvar} cannot be unified with {ty} because it would create a circular dependency during unification."`

Note that `a` will unifies with `a` -- the first `if` condition in this function checks for that.

Comment (joscoh) [reply Strata/DL/Lambda/LTyUnify.lean]: I like that message better.

**Review by atomb — DISMISSED** [review]
I mentioned a couple of tiny things in the review below, but they're not blocking.

File: Examples/TypeError.boogie.st
Comment (shigoel) [reply Examples/TypeError.boogie.st:1]: Fair point. My PoV is that this is an example of what error messages look like, but open to moving it elsewhere.

File: Strata/Languages/Boogie/DDMTransform/Translate.lean (hunk 5 above)
Comment (shigoel) [reply Strata/Languages/Boogie/DDMTransform/Translate.lean]: leftover from a bad debugging session. nice catch!

File: Strata/Languages/Boogie/ProgramWF.lean [hunk 6]
```diff
@@ -308,15 +309,26 @@ theorem Program.typeCheckFunctionDisjoint : Program.typeCheck.go p C T decls acc
...
-    . grind
-    . rename_i x v heq
-      have id_eq := addKnownTypeWithErrorIdents heq; simp at id_eq; grind
-    . grind
-    . rename_i Heq; have :=addDatatypeIdents Heq; grind
-    . grind
-    . grind
-    . grind
-    . simp only [LContext.addFactoryFunction] at a_notin; grind
+    case _ => grind
```
Comment (joscoh) [inline Strata/Languages/Boogie/ProgramWF.lean:312]: Not blocking, but my comment before just meant that if we are using `all_goals` to resolve some (but not all) of the goals, the remaining cases should be given explicit names (e.g. `case hd => ...` or whatever the name of the case is) to help maintainability. `case _` is almost equivalent to just the dot-notation used before.

Comment (shigoel) [reply Strata/Languages/Boogie/ProgramWF.lean:312]: Sorry, I meant to do exactly that but somehow... didn't. Next PR!
